US05270313
0.63 g of formamidine acetate in 40 ml of absolute ethyl alcohol was treated with 1.2 g of sodium ethylate at room temperature, stirred at room temperature for 30 minutes and then treated dropwise at room temperature with a solution of 1.6 g of diethyl [o-(trifluoromethyl)benzyl]malonate in 8 ml of absolute ethyl alcohol. After stirring at 50° C. for 4 hours, the reaction mixture was worked-up and yielded 5-[o-(trifluoro-methyl)benzyl]-4,6(1H,5H)pyrimidinedione, melting point >290° C.

reactant | formamidine acetate | 0.63 g | C(C)(=O)O.C(=N)N
reactant | sodium ethylate | 1.2 g | CC[O-].[Na+]
reactant | diethyl [o-(trifluoromethyl)benzyl]malonate | 1.6 g | FC(C1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1)(F)F | C15H17F3O4
solvent | ethyl alcohol | 40 ml | C(C)O | C2H6O
solvent | ethyl alcohol | 8 ml | C(C)O | C2H6O
product | 5-[o-(trifluoro-methyl)benzyl]-4,6(1H,5H)pyrimidinedione | FC(C1=C(CC2C(N=CNC2=O)=O)C=CC=C1)(F)F | C12H9F3N2O2
